* top6
.tran 1n 5m
Vin in 0 12
M1 in gate sw 0 NMOS W=1 L=1
M2 in gate2 sw2 0 NMOS W=1 L=1
D1 0 sw DIODE
D2 0 sw2 DIODE
L1 sw out 100u
L2 sw2 out 100u
C1 out 0 470u
Rload out 0 1.5
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16667e-06 1e-05)
Vgate2 gate2 0 PULSE(0 12 5e-06 1n 1n 4.16667e-06 1e-05)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.probe V(*) I(*)
.end
